US08754229B2
To a −10° C. (ice+NaCl) suspension of methyl 4-amino-6-(1-hydroxyethyl)-3-methoxypicolinate (0.3 g, 1.326 mmol) in Chloroform (6.63 ml) was added dropwise Triflic Acid (0.141 ml, 1.591 mmol) followed by Deoxo-Fluor® (0.257 ml, 1.392 mmol). The suspension was stirred at −10° C. (LC monitoring). After 2 h, the reaction mixture was poured into saturated NaHCO3 and extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by flash column chromatography (ISCO, SiO2 24 g, hexane/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-amino-6-(1-fluoroethyl)-3-methoxypicolinate (175 mg, 0.767 mmol, 57.8% yield) as a white solid. ESIMS m/z 227 ([M−H]−); 1H NMR (400 MHz, CDCl3) δ 6.91 (s, 1H), 5.59 (dq, J=47.6, 6.3 Hz, 1H), 4.53 (s, 2H), 3.97 (s, 3H), 3.87 (s, 3H), 1.62 (dd, J=24.6, 6.4 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −176.20.

reactant | methyl 4-amino-6-(1-hydroxyethyl)-3-methoxypicolinate | 1.326 mmol, 0.3 g | NC1=C(C(=NC(=C1)C(C)O)C(=O)OC)OC | C10H14N2O4
reactant | Triflic Acid | 1.591 mmol, 0.141 ml | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Chloroform | 6.63 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-amino-6-(1-fluoroethyl)-3-methoxypicolinate | 0.767 mmol, 175 mg, 57.8% yield | NC1=C(C(=NC(=C1)C(C)F)C(=O)OC)OC | C10H13FN2O3
